US08426430B2
A mixture of N-(3-ethynylphenyl)-7-fluoro-6-nitroquinazolin-4-amine (310 mg, 1 mmol) and SnCl2.2H2O (171 mg, 4.5 mmol) in ethyl acetate (35 mL) was refluxed for 2 h. After cooled to room temperature, the mixture was treated with 5% aqueous NaHCO3 to adjust its pH value to 9-10. It was then subjected to extraction with EtOAc. The combined organic layers were washed with saturated brine and H2O and dried. The solvent was removed under reduced pressure to give 225 mg (81%) N4-(3-ethynylphenyl)-7-fluoroquinazoline-4,6-diamine as a yellow solid.

reactant | N-(3-ethynylphenyl)-7-fluoro-6-nitroquinazolin-4-amine | 1 mmol, 310 mg | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C16H9FN4O2
reactant | SnCl2.2H2O | 4.5 mmol, 171 mg | O.O.Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
product | N4-(3-ethynylphenyl)-7-fluoroquinazoline-4,6-diamine | 225 mg, 81% | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)N)F | C16H11FN4
